US07405236B2
b] 2-(1H-Indol-6-yl)-N-[3-(4-trifluoromethoxy-phenyl)-prop-2-ynyl]-acetamide
In analogy to the procedure described for example 8 a], 2-(1H-indol-6-yl)-N-prop-2-ynyl-acetamide was reacted with 4-(trifluoromethoxy)-iodobenzene in the presence of PdCl2(Ph3P)2 and cuprous iodide to give the title compound as colorless crystals.

reactant | 2-(1H-indol-6-yl)-N-prop-2-ynyl-acetamide | N1C=CC2=CC=C(C=C12)CC(=O)NCC#C | C13H12N2O
reactant | 4-(trifluoromethoxy)-iodobenzene | FC(OC1=CC=C(C=C1)I)(F)F | C7H4F3IO
product | 2-(1H-Indol-6-yl)-N-[3-(4-trifluoromethoxy-phenyl)-prop-2-ynyl]-acetamide | N1C=CC2=CC=C(C=C12)CC(=O)NCC#CC1=CC=C(C=C1)OC(F)(F)F | C20H15F3N2O2
